
** Library name: EE525_project2
** Cell name: output_buffer_2stage
** View name: schematic
.subckt output_buffer_2stage in out
m1 out net5 0 0 NMOS_VTG L=50e-9 W=1.08e-6
m0 net5 in 0 0 NMOS_VTG L=50e-9 W=360e-9
m3 out net5 vdd! vdd! PMOS_VTG L=50e-9 W=2.7e-6
m2 net5 in vdd! vdd! PMOS_VTG L=50e-9 W=900e-9
.ends output_buffer_2stage
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: xor
** View name: schematic
.subckt xor a b y
m1 y net15 b 0 NMOS_VTG L=50e-9 W=90e-9
m2 net15 a 0 0 NMOS_VTG L=50e-9 W=180e-9
m0 y b net15 0 NMOS_VTG L=50e-9 W=180e-9
m5 y a b vdd! PMOS_VTG L=50e-9 W=225e-9
m4 net15 a vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m3 y b a vdd! PMOS_VTG L=50e-9 W=450e-9
.ends xor
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: pg
** View name: schematic
.subckt pg a b g p _a _b
m11 g _a 0 0 NMOS_VTG L=50e-9 W=180e-9
m10 g _b 0 0 NMOS_VTG L=50e-9 W=180e-9
m9 g _b net053 vdd! PMOS_VTG L=50e-9 W=900e-9
m8 net053 _a vdd! vdd! PMOS_VTG L=50e-9 W=900e-9
xi4 a b p xor
.ends pg
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: aoi
** View name: schematic
.subckt aoi a b c y
m3 y b net9 0 NMOS_VTG L=50e-9 W=180e-9
m2 net9 c 0 0 NMOS_VTG L=50e-9 W=180e-9
m0 y a 0 0 NMOS_VTG L=50e-9 W=90e-9
m5 y a net25 vdd! PMOS_VTG L=50e-9 W=450e-9
m4 net25 c vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m1 net25 b vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
.ends aoi
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: aoi_and
** View name: schematic
.subckt aoi_and a b c d p y
m7 net7 b 0 0 NMOS_VTG L=50e-9 W=180e-9
m6 p d net7 0 NMOS_VTG L=50e-9 W=180e-9
m0 y a 0 0 NMOS_VTG L=50e-9 W=90e-9
m2 net19 c 0 0 NMOS_VTG L=50e-9 W=180e-9
m3 y b net19 0 NMOS_VTG L=50e-9 W=180e-9
m9 p b vdd! vdd! PMOS_VTG L=50e-9 W=225e-9
m8 p d vdd! vdd! PMOS_VTG L=50e-9 W=225e-9
m1 net35 b vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m4 net35 c vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m5 y a net35 vdd! PMOS_VTG L=50e-9 W=450e-9
.ends aoi_and
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: inv_min
** View name: schematic
.subckt inv_min in out
m0 out in vdd! vdd! PMOS_VTG L=50e-9 W=225e-9
m1 out in 0 0 NMOS_VTG L=50e-9 W=90e-9
.ends inv_min
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: buf
** View name: schematic
.subckt buf a y
xi1 a net3 inv_min
xi0 net3 y inv_min
.ends buf
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: ii_aoi
** View name: schematic
.subckt ii_aoi a b c y
m0 y a net13 0 NMOS_VTG L=50e-9 W=180e-9
m2 net13 c 0 0 NMOS_VTG L=50e-9 W=180e-9
m3 net13 b 0 0 NMOS_VTG L=50e-9 W=180e-9
m1 net24 b vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m4 y c net24 vdd! PMOS_VTG L=50e-9 W=450e-9
m5 y a vdd! vdd! PMOS_VTG L=50e-9 W=225e-9
.ends ii_aoi
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: ii_aoi_or
** View name: schematic
.subckt ii_aoi_or a b c d p y
m7 p b 0 0 NMOS_VTG L=50e-9 W=90e-9
m6 p d 0 0 NMOS_VTG L=50e-9 W=90e-9
m0 y a net19 0 NMOS_VTG L=50e-9 W=180e-9
m3 net19 c 0 0 NMOS_VTG L=50e-9 W=180e-9
m2 net19 b 0 0 NMOS_VTG L=50e-9 W=180e-9
m9 net34 b vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m8 p d net34 vdd! PMOS_VTG L=50e-9 W=450e-9
m5 y a vdd! vdd! PMOS_VTG L=50e-9 W=225e-9
m1 net46 c vdd! vdd! PMOS_VTG L=50e-9 W=450e-9
m4 y b net46 vdd! PMOS_VTG L=50e-9 W=450e-9
.ends ii_aoi_or
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: ladner_fischer
** View name: schematic
.subckt ladner_fischer g<18> g<17> g<16> g<15> g<14> g<13> g<12> g<11> g<10> g<9> g<8> g<7> g<6> g<5> g<4> g<3> g<2> g<1> g<0> gout<19> gout<18> gout<17> gout<16> gout<15> gout<14> gout<13> gout<12> gout<11> gout<10> gout<9> gout<8> gout<7> gout<6> gout<5> gout<4> gout<3> gout<2> gout<1> gout<0> p<18> p<17> p<16> p<15> p<14> p<13> p<12> p<11> p<10> p<9> p<8> p<7> p<6> p<5> p<4> p<3> p<2> p<1> p<0> g<19> p<19>
xi95 net0283 net0281 net062 preout<17> aoi
xi69 net13 net14 net66 net0198 aoi
xi68 net068 net069 net0154 preout<5> aoi
xi2 g<1> p<1> g<0> net20 aoi
xi73 net077 net078 net28 net29 net0195 net0196 aoi_and
xi65 g<17> p<17> g<16> p<16> net071 net072 aoi_and
xi72 net70 net27 net28 net29 net0199 net0200 aoi_and
xi13 g<15> p<15> g<14> p<14> net74 net31 aoi_and
xi29 g<13> p<13> g<12> p<12> net72 net73 aoi_and
xi8 g<11> p<11> g<10> p<10> net36 net81 aoi_and
xi31 g<5> p<5> g<4> p<4> net87 net86 aoi_and
xi4 g<7> p<7> g<6> p<6> net42 net84 aoi_and
xi1 g<3> p<3> g<2> p<2> net48 net67 aoi_and
xi30 g<9> p<9> g<8> p<8> net78 net79 aoi_and
xi152 g<0> gout<1> buf
xi132 net0198 preout<7> buf
xi155 net0198 net0201 buf
xi87 net79 net0192 buf
xi86 net78 net0191 buf
xi154 net0198 net0173 buf
xi153 net0198 net0221 buf
xi156 net66 net0154 buf
xi110 net20 preout<1> buf
xi82 net0204 net0203 net0173 net0236 ii_aoi
xi106 net0164 net0267 preout<7> gout<9> ii_aoi
xi105 net0168 net0167 preout<3> gout<5> ii_aoi
xi104 net0172 net0171 preout<5> gout<7> ii_aoi
xi103 net0176 net0259 preout<13> gout<15> ii_aoi
xi101 net0184 net0183 preout<15> gout<17> ii_aoi
xi100 net0243 net0187 preout<17> gout<19> ii_aoi
xi84 net0196 net0195 net0201 net0234 ii_aoi
xi102 net0180 net0179 preout<11> gout<13> ii_aoi
xi107 net0160 net0159 preout<9> gout<11> ii_aoi
xi108 net0156 net0155 preout<1> gout<3> ii_aoi
xi83 net0200 net0199 net0198 net062 ii_aoi
xi85 net0192 net0191 net0221 net0238 ii_aoi
xi0 net67 net48 net20 net66 ii_aoi
xi25 net31 net74 net73 net72 net27 net70 ii_aoi_or
xi24 net81 net36 net79 net78 net29 net28 ii_aoi_or
xi5 net84 net42 net86 net87 net14 net13 ii_aoi_or
xi145 preout<1> gout<2> inv_min
xi150 preout<13> gout<14> inv_min
xi143 preout<7> gout<8> inv_min
xi142 preout<5> gout<6> inv_min
xi148 preout<9> gout<10> inv_min
xi149 preout<15> gout<16> inv_min
xi147 preout<11> gout<12> inv_min
xi146 preout<3> gout<4> inv_min
xi137 preout<17> gout<18> inv_min
xi135 net0234 preout<13> inv_min
xi134 net0236 preout<11> inv_min
xi133 net0238 preout<9> inv_min
xi130 net66 preout<3> inv_min
xi128 p<18> net0187 inv_min
xi127 g<18> net0243 inv_min
xi126 p<10> net0159 inv_min
xi125 g<10> net0160 inv_min
xi124 g<12> net0180 inv_min
xi123 p<12> net0179 inv_min
xi122 p<16> net0183 inv_min
xi121 g<16> net0184 inv_min
xi120 g<14> net0176 inv_min
xi119 p<14> net0259 inv_min
xi118 p<6> net0171 inv_min
xi117 g<6> net0172 inv_min
xi116 g<8> net0164 inv_min
xi80 net73 net077 inv_min
xi96 net072 net0283 inv_min
xi89 net28 net0204 inv_min
xi98 net062 preout<15> inv_min
xi88 net29 net0203 inv_min
xi115 p<8> net0267 inv_min
xi114 p<4> net0167 inv_min
xi113 g<4> net0168 inv_min
xi97 net071 net0281 inv_min
xi112 g<2> net0156 inv_min
xi111 p<2> net0155 inv_min
xi79 net86 net068 inv_min
xi78 net87 net069 inv_min
xi81 net72 net078 inv_min
r4 0 gout<0> 0
.ends ladner_fischer
** End of subcircuit definition.

** Library name: EE525_project2
** Cell name: adder_top
** View name: schematic
xoutbuf<19> xor_out<19> s<19> output_buffer_2stage
xoutbuf<18> xor_out<18> s<18> output_buffer_2stage
xoutbuf<17> xor_out<17> s<17> output_buffer_2stage
xoutbuf<16> xor_out<16> s<16> output_buffer_2stage
xoutbuf<15> xor_out<15> s<15> output_buffer_2stage
xoutbuf<14> xor_out<14> s<14> output_buffer_2stage
xoutbuf<13> xor_out<13> s<13> output_buffer_2stage
xoutbuf<12> xor_out<12> s<12> output_buffer_2stage
xoutbuf<11> xor_out<11> s<11> output_buffer_2stage
xoutbuf<10> xor_out<10> s<10> output_buffer_2stage
xoutbuf<9> xor_out<9> s<9> output_buffer_2stage
xoutbuf<8> xor_out<8> s<8> output_buffer_2stage
xoutbuf<7> xor_out<7> s<7> output_buffer_2stage
xoutbuf<6> xor_out<6> s<6> output_buffer_2stage
xoutbuf<5> xor_out<5> s<5> output_buffer_2stage
xoutbuf<4> xor_out<4> s<4> output_buffer_2stage
xoutbuf<3> xor_out<3> s<3> output_buffer_2stage
xoutbuf<2> xor_out<2> s<2> output_buffer_2stage
xoutbuf<1> xor_out<1> s<1> output_buffer_2stage
xoutbuf<0> xor_out<0> s<0> output_buffer_2stage
xgenpg<19> a<19> b<19> g<19> p<19> _a<19> _b<19> pg
xgenpg<18> a<18> b<18> g<18> p<18> _a<18> _b<18> pg
xgenpg<17> a<17> b<17> g<17> p<17> _a<17> _b<17> pg
xgenpg<16> a<16> b<16> g<16> p<16> _a<16> _b<16> pg
xgenpg<15> a<15> b<15> g<15> p<15> _a<15> _b<15> pg
xgenpg<14> a<14> b<14> g<14> p<14> _a<14> _b<14> pg
xgenpg<13> a<13> b<13> g<13> p<13> _a<13> _b<13> pg
xgenpg<12> a<12> b<12> g<12> p<12> _a<12> _b<12> pg
xgenpg<11> a<11> b<11> g<11> p<11> _a<11> _b<11> pg
xgenpg<10> a<10> b<10> g<10> p<10> _a<10> _b<10> pg
xgenpg<9> a<9> b<9> g<9> p<9> _a<9> _b<9> pg
xgenpg<8> a<8> b<8> g<8> p<8> _a<8> _b<8> pg
xgenpg<7> a<7> b<7> g<7> p<7> _a<7> _b<7> pg
xgenpg<6> a<6> b<6> g<6> p<6> _a<6> _b<6> pg
xgenpg<5> a<5> b<5> g<5> p<5> _a<5> _b<5> pg
xgenpg<4> a<4> b<4> g<4> p<4> _a<4> _b<4> pg
xgenpg<3> a<3> b<3> g<3> p<3> _a<3> _b<3> pg
xgenpg<2> a<2> b<2> g<2> p<2> _a<2> _b<2> pg
xgenpg<1> a<1> b<1> g<1> p<1> _a<1> _b<1> pg
xgenpg<0> a<0> b<0> g<0> p<0> _a<0> _b<0> pg
xout_xor<19> p<19> gout<19> xor_out<19> xor
xout_xor<18> p<18> gout<18> xor_out<18> xor
xout_xor<17> p<17> gout<17> xor_out<17> xor
xout_xor<16> p<16> gout<16> xor_out<16> xor
xout_xor<15> p<15> gout<15> xor_out<15> xor
xout_xor<14> p<14> gout<14> xor_out<14> xor
xout_xor<13> p<13> gout<13> xor_out<13> xor
xout_xor<12> p<12> gout<12> xor_out<12> xor
xout_xor<11> p<11> gout<11> xor_out<11> xor
xout_xor<10> p<10> gout<10> xor_out<10> xor
xout_xor<9> p<9> gout<9> xor_out<9> xor
xout_xor<8> p<8> gout<8> xor_out<8> xor
xout_xor<7> p<7> gout<7> xor_out<7> xor
xout_xor<6> p<6> gout<6> xor_out<6> xor
xout_xor<5> p<5> gout<5> xor_out<5> xor
xout_xor<4> p<4> gout<4> xor_out<4> xor
xout_xor<3> p<3> gout<3> xor_out<3> xor
xout_xor<2> p<2> gout<2> xor_out<2> xor
xout_xor<1> p<1> gout<1> xor_out<1> xor
xout_xor<0> p<0> gout<0> xor_out<0> xor
xi5 g<18> g<17> g<16> g<15> g<14> g<13> g<12> g<11> g<10> g<9> g<8> g<7> g<6> g<5> g<4> g<3> g<2> g<1> g<0> gout<19> gout<18> gout<17> gout<16> gout<15> gout<14> gout<13> gout<12> gout<11> gout<10> gout<9> gout<8> gout<7> gout<6> gout<5> gout<4> gout<3> gout<2> gout<1> gout<0> p<18> p<17> p<16> p<15> p<14> p<13> p<12> p<11> p<10> p<9> p<8> p<7> p<6> p<5> p<4> p<3> p<2> p<1> p<0> g<19> p<19> ladner_fischer
